US07658867B2
Synthesis of 2,5-dichloro-4′-(2-benzothiazolethioxy)benzophenone
269.1 g (1.000 mol) of 2,5-dichloro-4′-fluorobenzophenon, 175.6 g (1.050 mol) of 2-benzothiazolethiol, 152.0 g (1.100 mol) of potassium carbonate, and 1.500 ml of N,N′-dimethylacetamide were added into a 3 L three-necked flask equipped with a stirrer, thermometer, cooling pipe, and nitrogen inlet tube, and dehydrated. The reaction solution was heated by use of an oil bath and was allowed to react at 110 degrees C. in a nitrogen atmosphere for 2 hours. After the disappearance of material was confirmed by a thin layer chromatography, the mixture was cooled to ambient temperature. Then, the reaction solution was gradually poured into 3 L of water to cause coagulation. The resulting product by filtration was dissolved into 4 L of toluene. The organic layer was washed by brine to be neutral. After the organic layer was dried by magnesium sulfate, the solvent was removed by an evaporator. The rough yield was 350.3 g. By using 1.5 L of toluene heated at 80 degrees C., the dried product was recrystallized for isolation to obtain 325.4 g of the refining material in 78.2% yield.

reactant | 2,5-dichloro-4′-fluorobenzophenon | 1.000 mol, 269.1 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO
reactant | 2-benzothiazolethiol | 1.050 mol, 175.6 g | S1C(=NC2=C1C=CC=C2)S | C7H5NS2
reactant | potassium carbonate | 1.100 mol, 152.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 3 L | O | H2O
product | 2,5-dichloro-4′-(2-benzothiazolethioxy)benzophenone | 325.4 g, 78.2% yield | ClC1=C(C(=O)C2=CC=C(C=C2)SC=2SC3=C(N2)C=CC=C3)C=C(C=C1)Cl | C20H11Cl2NOS2
